US08431695B2
Preparation of 7-(1-acetylpiperidin-4-yl)-5-[2-(cyclohexylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
In a manner similar to the procedure described for Example 369 and using 5-[2-(cyclohexylmethyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and substituting acetyl chloride for 2-chloro-N,N-dimethylacetamide as starting materials, 13 mg (16%) of the desired product was isolated. 1H NMR (400 MHz, CD3OD) δ 8.25 (s, 1 H) 7.82 (s, 1 H) 7.80 (d, 1 H) 7.64 (d, 1 H) 7.21 (dd, 1 H) 6.60 (s, 1 H) 4.65 (dd, 1 H) 4.26-4.31 (m, 2 H) 4.04 (dd, 1 H) 3.50 (dt, 1 H) 3.27 (dd, 1 H) 2.80 (dd, 1 H) 2.12-222 (m, 6H) 1.67-1.77 (m, 7 H) 1.06-1.29 (m, 5 H). LC-MS [M+H]+=472.3, RT=2.66 min.

reactant | 5-[2-(cyclohexylmethyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C1(CCCCC1)CN1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C25H31N7
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 7-(1-acetylpiperidin-4-yl)-5-[2-(cyclohexylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 13 mg, 16% | C(C)(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2CCCCC2 | C27H33N7O
